US07989454B2
4-[3-[7-(3-Bromo-5-dimethylcarbamoyl-phenyl)-hept-6-ynyl]-2-(2-carboxy-ethyl)-phenoxy]-butyric acid
To a solution of 4-[2-(2-carboxy-ethyl)-3-hept-6-ynyl-phenoxy]-butyric acid (900 mg, 2.6 mmol), 3-bromo-5-iodo-N,N-dimethyl-benzamide (1.0 g, 2.8 mmol), CuI (20 mg, 0.11 mmol) in THF (10 mL) and TEA (10 mL) was added bis(triphenylphosphine) palladium(II) dichloride (75 mg, 0.11 mmol). The reaction mixture was heated at 70° C. for 5 h. Then the reaction mixture was cooled to room temperature, a few drops of TFA were added and the resulting mixture was concentrated under reduced pressure. The crude material was purified by column chromatography (Isco™ 120 g) using ethyl acetate as eluting solvent to give the title compound (980 mg, 65%) as an oil.

reactant | 4-[2-(2-carboxy-ethyl)-3-hept-6-ynyl-phenoxy]-butyric acid | 2.6 mmol, 900 mg | C(=O)(O)CCC1=C(OCCCC(=O)O)C=CC=C1CCCCCC#C | C20H26O5
reactant | 3-bromo-5-iodo-N,N-dimethyl-benzamide | 2.8 mmol, 1.0 g | BrC=1C=C(C(=O)N(C)C)C=C(C1)I | C9H9BrINO
solvent | THF | 10 mL | C1CCOC1 | C4H8O
catalyst | TFA | a few drops | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | CuI | 0.11 mmol, 20 mg | [Cu]I
catalyst | bis(triphenylphosphine) palladium(II) dichloride | 0.11 mmol, 75 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
product | 4-[3-[7-(3-Bromo-5-dimethylcarbamoyl-phenyl)-hept-6-ynyl]-2-(2-carboxy-ethyl)-phenoxy]-butyric acid | 980 mg, 65% | BrC=1C=C(C=C(C1)C(N(C)C)=O)C#CCCCCCC=1C(=C(OCCCC(=O)O)C=CC1)CCC(=O)O | C29H34BrNO6
